US04798738
Acetoxy-pyrenetrisulfonic acid trisodium salt
10 grams of trisodium hydroxypyrenetrisulfonate, 50 mls of acetic anhydride and 1.6 grams of sodium acetate are added to 200 mls of dimethylformamide in a 500 ml flask. The flask is equipped with a condenser having a drying tube and a stirring bar. The contents of the flask are stirred at 50° to 70° C. for one to two hours. The reaction mixture is filtered and the filtrate collected. The filtrate is vacuum evaporated to yield a crude solid product. This crude solid product is extracted into boiling methanol. The volume of the methanol is reduce to 100 mls and cooled. The first batch of product crystallizes out and is filtered. The methanol is again reduced to approximately 20 mls to yield a second crop of product. This is filtered and combined with the first batch and dried for twenty to forty minutes at 60° C.

reactant | trisodium hydroxypyrenetrisulfonate | 10 grams | OC1=C2C(=C(C(=C3C=CC4=CC=CC(=C1)C4=C32)S(=O)(=O)[O-])S(=O)(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | acetic anhydride | 50 mls | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 1.6 grams | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 200 mls | CN(C=O)C | C3H7NO
product | Acetoxy-pyrenetrisulfonic acid trisodium salt | [Na+].[Na+].[Na+].C(C)(=O)OC1=C2C(=C(C(=C3C=CC4=CC=CC(=C1)C4=C32)S(=O)(=O)[O-])S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C18H12O11S3.3Na/c1-8(19)29-12-7-10-4-2-3-9-5-6-11-14(13(9)10)15(12)17(31(23,24)25)18(32(26,27)28)16(11)30(20,21)22;;;/h2-7H,1H3,(H,20,21,22)(H,23,24,25)(H,26,27,28);;;/q;3*+1/p-3
